US04242515
6-(4-Chlorophenyl)-3-methyl-1,2,4-triazolo[4,3-a]pyridine
A mixture of 8.5 g. of 5-(4-chlorophenyl)-2-hydrazinopyridine and 80 ml. of ethyl orthoacetate is refluxed for 5 hours, the mixture is filtered and the solid is washed with hexane to afford 5.0 g. of the product of the Example as a tan solid, m.p. 192°-193.5° C.

reactant | 5-(4-chlorophenyl)-2-hydrazinopyridine | ClC1=CC=C(C=C1)C=1C=CC(=NC1)NN | C11H10ClN3
reactant | ethyl orthoacetate | C(C)(OCC)([O-])[O-]
product | 6-(4-Chlorophenyl)-3-methyl-1,2,4-triazolo[4,3-a]pyridine | ClC1=CC=C(C=C1)C=1C=CC=2N(C1)C(=NN2)C | C13H10ClN3
